US04895861
(Step 2) Preparation of 2-Bromomethyl-3-methylnaphthalene
To a stirred solution of 2-hydroxymethyl-3-methylnaphthalene (2.47 g, 14.4 mmol) in dry Et2O (50 mL) cooled to 0° C. was added phosphorus tribromide (4.88 g, 18 mmol) dropwise over 20 minutes. The resulting heterogeneous mixture was stirred at 0° C. for 1.25 hours and then quenched with H2O (50 mL). The reaction mixture was diluted further with H2O (50 mL) and extracted with Et1O (2×150 mL). The combined organic layers were washed with H2O (1×100 mL), dried (MgSO4) and concentrated in vacuo. The residue was purified by filtration through silica gel using CH2Cl2 as eluent to give the product as an off-white solid (2.94 g, 87%).

reactant | 2-hydroxymethyl-3-methylnaphthalene | 14.4 mmol, 2.47 g | OCC1=CC2=CC=CC=C2C=C1C | C12H12O
reactant | phosphorus tribromide | 18 mmol, 4.88 g | P(Br)(Br)Br | Br3P
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | 2-Bromomethyl-3-methylnaphthalene | 2.94 g, 87% | BrCC1=CC2=CC=CC=C2C=C1C | C12H11Br
